US07678801B2
3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-(2-phenylethyl)benzamide
The title compound is prepared from 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid by following the procedures in Example 19 using 2-phenylethanamine for the amide formation and (1H-imidazol-2-ylmethyl)amine dihydrochloride for the displacement reaction: LC-MS m/z 592 (M+H)+, 1.77 min (ret time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)O)C=CC2C)SC)=O | C22H15F2N3O3S
reactant | 2-phenylethanamine | C1(=CC=CC=C1)CCN | C8H11N
reactant | (1H-imidazol-2-ylmethyl)amine dihydrochloride | Cl.Cl.N1C(=NC=C1)CN
product | 3-{8-(2,6-difluorophenyl)-2-[(1H-imidazol-2-ylmethyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-(2-phenylethyl)benzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC1=CC=CC=C1)C=CC2C)NCC=2NC=CN2)=O | C33H27F2N7O2
